US05604227
7-Bromo-2,3-dihydro-10-hydroxypyridazino[4,5-b]quinoline-1,4-dione choline salt
To a suspension of 7-bromo-2,3-dihydro-10-hydroxypyridazino[4,5-b]quinoline -1,4-dione (0.600g, 1.95 mM) in methanol (20 mL) was added choline hydroxide (0.24 g, 1.98 mM, 45% solution in methanol). The resulting solution was concentrated and the solid yellow residue was recrystallized from ethanol to provide (0.62 g, 78%) the title compound as yellow crystals, mp 227.5°-228.5° C. Analysis for C11H5BrN3O3 ·C5H14NO·0.6 C5H5OH·0.2 H2O Calculated: C, 46.69; H, 5.24; N, 12.66 Found: C, 46.73; H, 5.33; N, 12.31

reactant | 7-bromo-2,3-dihydro-10-hydroxypyridazino[4,5-b]quinoline -1,4-dione | 1.95 mM, 0.600g | BrC=1C=CC=2C(=C3C(=NC2C1)C(NNC3=O)=O)O | C11H6BrN3O3
reactant | choline hydroxide | 1.98 mM, 0.24 g | [OH-].OCC[N+](C)(C)C
solvent | methanol | 20 mL | CO | CH4O
product | 7-Bromo-2,3-dihydro-10-hydroxypyridazino[4,5-b]quinoline-1,4-dione choline salt | 0.62 g, 78% | OCC[N+](C)(C)C.BrC=1C=CC=2C(=C3C(=NC2C1)C(NNC3=O)=O)O | InChI=1S/C11H6BrN3O3.C5H14NO/c12-4-1-2-5-6(3-4)13-8-7(9(5)16)10(17)14-15-11(8)18;1-6(2,3)4-5-7/h1-3H,(H,13,16)(H,14,17)(H,15,18);7H,4-5H2,1-3H3/q;+1
